US07566724B2
In the same manner as in Reference Example 13, N-(4-iodophenyl)pyrimidin-2-amine (150 mg) and 1-bromo-3-methylbut-2-ene (90 mg) were reacted in the presence of sodium hydride to obtain N-(4-iodophenyl)-N-(3-methyl-2-butenyl)pyrimidin-2-amine (175 mg).

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 150 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | 1-bromo-3-methylbut-2-ene | 90 mg | BrCC=C(C)C | C5H9Br
reactant | sodium hydride | [H-].[Na+]
product | N-(4-iodophenyl)-N-(3-methyl-2-butenyl)pyrimidin-2-amine | 175 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC=C(C)C | C15H16IN3
